US08304419B2
Step F: 3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile
3-Chloro-5-[(6-chloro-2-fluoro-3-methylphenyl)oxy]benzonitrile (1.8 g, 6.1 mmol) was dissolved in CCl4 (200 mL). NBS (1.2 g, 6.7 mmol) and AIBN (0.63 g, 3.8 mmol) were added and the reaction mixture was placed in oil bath at 85° C. and stirred for 4 h. The reaction was monitored by TLC and more AIBN and NBS were added as necessary. The reaction was cooled, filtered and the solid washed with CCl4. The solvent was evaporated. Purification was accomplished by column chromatography (hexane/EtOAc eluent) to afford the title compound (1.8 g, 79%) as a solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.81 (s, 1H), 7.49-7.59 (m, 3H), 7.47 (d, 1H), 4.73 (s, 2H). GC-MS, 372.9 (M).

reactant | 3-Chloro-5-[(6-chloro-2-fluoro-3-methylphenyl)oxy]benzonitrile | 6.1 mmol, 1.8 g | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)C)F | C14H8Cl2FNO
reactant | NBS | 6.7 mmol, 1.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 3.8 mmol, 0.63 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 1.8 g, 79% | BrCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H7BrCl2FNO
